2167-10-27 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-10-26**] 02:00 PM
 MULTI LUMEN - START [**2167-10-26**] 06:16 PM
   - CVVH initiated
   - CVL placed in left IJ
   - TTE without significant systolic changes (global 35%)
   - Received another dose of IV ceftriaxone 1gm last night for possible
   UTI
   - Met briefly with family
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-26**] 12:42 AM
   Ceftriaxone - [**2167-10-27**] 03:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-27**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (96.9
   HR: 86 (67 - 86) bpm
   BP: 93/56(63) {91/20(50) - 135/94(102)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (11 - 22)mmHg
   Total In:
                                                                    873 mL
                                                                  2,003 mL
   PO:
                                                                    220 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    653 mL
                                                                  1,803 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,188 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    873 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.43/40/153/26/2
   PaO2 / FiO2: 255
   Physical Examination
   Gen: awake, alert, NAD
   Cardio: RRR, no m/g/r
   Pulm: crackles b/l
   GI: abd anasarcic
   EXT: LLE 1+ edema, RLE BKA, wound intact and without drainage.
   Labs / Radiology
   126 K/uL
   8.2 g/dL
   149 mg/dL
   3.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   40 mg/dL
   99 mEq/L
   135 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                            [**2167-10-26**]  04:47 AM
                            [**2167-10-26**]  10:46 PM
                            [**2167-10-26**]  10:55 PM
                            [**2167-10-27**]  05:32 AM
   WBC
   12.6
   8.8
   Hct
   30.6
   26.4
   Plt
   156
   126
   Cr
   3.9
   3.9
   3.3
   TropT
   0.26
   TCO2
   27
   Glucose
   200
   159
   149
   Other labs: PT / PTT / INR:17.2/36.5/1.6, CK / CKMB /
   Troponin-T:40/5/0.26, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:5.7
   %, Mono:3.0 %, Eos:0.9 %, Albumin:3.2 g/dL, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan:  Patient is an 80 y.o. man with pmh significant
   for systolic and diastolic CHF, ESRD, p/w dyspnea, hypoxia, and
   hypotension.
   #)Dyspnea/Hypoxia:Likely CHF exacerbation with pulmonary edema. CXR
   with bilateral infiltrates, BNP 38,000 on admission. Echo unchanged,
   ekg unchanged.  Cardiac enzymes negative. Entire body is edemetous.
   patient has been going to hemodialysis regularly but many of these
   sessions have been discontinued early secondary to hypotension. he
   likely became progressively fluid overloaded with insufficient HD.
   CVVH began [**10-26**].
   -albuterol, ipratropium nebs.
   -IV morphine
   -continue digoxin
   -continue CVVH
   -consider therapeutic thoracentesis, patient currently refusing.
   .
   #)Hypotension: Likely from low intravascular volume from
   hypoalbuminemia, in addition to side effects of anti-hypertensive
   medications.  Currently on levophed, unable goal is to keep MAP > 60.
   Will hold antihypertensive medications and try to wean off dopamine.
   Will also get central venous sat to determine if this is secondary to
   sepsis vs. cardiogenic shock.  Got a one time dose of ceftriaxone
   [**10-27**], for possible sepsis.
   -Hold metoprolol
   -Hold amiodarone
   -wean off levophed
   -f/u cultures
   -continue ceftriaxone and vancomycin
   .
   #)Chest Pain: ekg without ischemic changes and unchanged from prior.
   Chest tightness likely from pulmonary edema.  patient does have pmh of
   CAD, and so will continue with morphine and SL Nitro.
   -IV morphine
   -SL Nitroglycerin
   -trend enzymes
   .
   #)GI bleeding: Not currently bleeding, hematocrit is stable. holding
   anticoagulation.
   .
   #)Afib: Holding metorpolol and amiodarone in setting of hypotension.
   will continue with digoxin.
   .
   #) Prophylaxis: PPI, bowel regimen
   .
   #) FEN: low salt diet diet as tolerated
   .
   #) Access: Right EJ, left midline, right tunneled HD cartheter.
   .
   #) Code Status: DNR/DNI
   .
   #) Dispo: likely pain and palliative care consult for symptom control,
   goals of care
   ICU Care
   Nutrition:
   Glycemic Control: Comments: Insulin sliding scale
   Lines:
   Midline - [**2167-10-26**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2167-10-26**] 01:00 AM
   Dialysis Catheter - [**2167-10-26**] 01:00 AM
   18 Gauge - [**2167-10-26**] 01:00 AM
   Multi Lumen - [**2167-10-26**] 06:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-10-27 11:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: cardiogenic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-10-26**] 02:00 PM
 MULTI LUMEN - START [**2167-10-26**] 06:16 PM
   - CVVH started
   - Echocardiogram
   -Transitioned from Dopa to Levophed secondary to freq PVCs.
   -Some progress weaning Levo
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-26**] 12:42 AM
   Ceftriaxone - [**2167-10-27**] 03:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Psychiatric / Sleep: appropriate
   Flowsheet Data as of  [**2167-10-27**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.4
C (95.8
   HR: 78 (67 - 91) bpm
   BP: 101/74(81) {60/20(40) - 135/88(92)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 16 (11 - 22)mmHg
   Total In:
                                                                    873 mL
                                                                  3,276 mL
   PO:
                                                                    220 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    653 mL
                                                                  2,926 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  3,676 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    873 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.43/40/153/26/2
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bases b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: N/A, Left: 1+, Rt BKA
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   126 K/uL
   149 mg/dL
   3.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   40 mg/dL
   99 mEq/L
   135 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                            [**2167-10-26**]  04:47 AM
                            [**2167-10-26**]  10:46 PM
                            [**2167-10-26**]  10:55 PM
                            [**2167-10-27**]  05:32 AM
   WBC
   12.6
   8.8
   Hct
   30.6
   26.4
   Plt
   156
   126
   Cr
   3.9
   3.9
   3.3
   TropT
   0.26
   TCO2
   27
   Glucose
   200
   159
   149
   Other labs: PT / PTT / INR:17.2/36.5/1.6, CK / CKMB /
   Troponin-T:40/5/0.26, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:5.7
   %, Mono:3.0 %, Eos:0.9 %, Albumin:3.2 g/dL, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   80M h/o CAD s/p CABG, ESRD, DM, CHF, h/o colon CA, prostate CA,  p/w
   hypotension and shortness of breath.  Per report, pt had been
   hypotensive at HD preventing dialysis down to dry weight.  2d ago. p/w
   SOB and chest pain.  At OSH, 79% on NRB and hypotensive.  Started on
   dopamine gtt in ED.  Pt on NIMV transiently and then put on NRB.
    Cardiogenic shock:
   - Continued pressor requirement though progress weaning levophed
   titrate to maintain MAP>60
   - Sig PVCs noted on tele
 still present post transition dopa to levo
   - No clear source for septic shock though remain vigilant
   - Continued volume removal
 CXR sig wet
   - Repeat echo shows stable EF and no new focal WMA
   - Cards consult
    ESRD:
   -ESRD req dialysis
   -Renal following
    Leukocytosis:
   -Check urine culture and follow urine cultures.
   -Given ongoing nature of HOTN, makes less likely septic/infxn origin.
   Still, need to follow cx results drawn outside institution as well as
   [**Hospital1 54**]
   Dyspnea/Hypoxia:
   - Likely CHF exacerbation with pulmonary edema.
   - unable to complete multiple recent dialysis sessions per report
   -albuterol, ipratropium nebs.
   -IV morphine
   -continue digoxin
   -contact renal for HD/CVVH
   -Echo showed no change in EF and no focal WMA
   Hypotension:
   - Presumed low intravascular volume from hypoalbuminemia,
   - Hold antihypertensive medications and try to wean off dopamine.
   -Hold metoprolol
   -Hold amiodarone
   -wean off dopamine as tolerated
   Chest Pain:
   - ekg without ischemic changes and unchanged from prior
   - ? related to pulm edema?
   -IV morphine
   -SL Nitroglycerin
   -cycle enzymes
    Afib:
   -Holding metorpolol and amiodarone in setting of hypotension.
   - Continue with digoxin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2167-10-26**] 01:00 AM
   Dialysis Catheter - [**2167-10-26**] 01:00 AM
   18 Gauge - [**2167-10-26**] 01:00 AM
   Multi Lumen - [**2167-10-26**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition :
   Total time spent:

2167-10-28 08:02:00 Physician Resident Progress Note
Chief Complaint: CHF exacerbation, hypotension
   24 Hour Events:
 EKG - At [**2167-10-27**] 10:30 AM
   1.       Renal recs: Continue CVVH
   2.       Cultures: negative at this point
   3.       Weaned Levophed off and patient hypotensive to 89/53 and then
   restarted at 0.03
   4.       Mixed Venous Sat: 74%
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-26**] 12:42 AM
   Ceftriaxone - [**2167-10-27**] 03:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, Edema
   Respiratory: No(t) Dyspnea, Feels this is improving
   Flowsheet Data as of  [**2167-10-28**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 84 (78 - 103) bpm
   BP: 105/67(73) {60/35(40) - 118/75(199)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98 kg (admission): 98.9 kg
    CVP: 16 (13 - 27)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  6,809 mL
                                                                  2,112 mL
   PO:
                                                                    800 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  6,009 mL
                                                                  1,962 mL
   Blood products:
   Total out:
                                                                  9,048 mL
                                                                  2,575 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,239 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished:
   lateral bases)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   7.8 g/dL
   110 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.5 mEq/L
   25 mg/dL
   100 mEq/L
   135 mEq/L
   25.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2167-10-26**]  04:47 AM
                            [**2167-10-26**]  10:46 PM
                            [**2167-10-26**]  10:55 PM
                            [**2167-10-27**]  05:32 AM
                            [**2167-10-27**]  11:46 AM
                            [**2167-10-27**]  11:48 AM
                            [**2167-10-27**]  05:47 PM
                            [**2167-10-27**]  05:49 PM
                            [**2167-10-27**]  11:51 PM
                            [**2167-10-28**]  05:36 AM
   WBC
   12.6
   8.8
   9.6
   8.2
   Hct
   30.6
   26.4
   27.3
   26.8
   25.8
   Plt
   156
   126
   132
   148
   Cr
   3.9
   3.9
   3.3
   2.9
   2.0
   TropT
   0.26
   TCO2
   27
   Glucose
   200
   159
   149
   163
   173
   227
   110
   Other labs: PT / PTT / INR:16.4/35.7/1.5, CK / CKMB /
   Troponin-T:40/5/0.26, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:5.7
   %, Mono:3.0 %, Eos:0.9 %, Albumin:3.2 g/dL, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Imaging: Echo [**10-26**]
   Asymmetric LVH. Normal LV cavity size. Moderate global LV hypokinesis.
   Trabeculated LV apex. TDI E/e' >15, suggesting PCWP>18mmHg. EF 35%
   Microbiology: [**2167-10-27**]  MRSA SCREEN  Pending
   [**2167-10-25**]  BLOOD CULTURE  Pending
   [**2167-10-25**]  BLOOD CULTURE  Pending
   [**2167-10-20**]  BLOOD CULTURE  Final
   [**2167-10-20**]  BLOOD CULTURE  Final
   Assessment and Plan
   Patient is an 80 y.o. man with pmh significant for systolic and
   diastolic CHF, ESRD, p/w dyspnea, hypoxia, and hypotension.
   #)ACUTE ON CHRONIC CONGESTIVE HEART FAILURE
   CHF exacerbation with pulmonary edema. CXR with bilateral infiltrates,
   BNP 38,000 on admission. Echo unchanged, ekg unchanged.  Cardiac
   enzymes negative. Entire body is edemetous. patient has been going to
   hemodialysis regularly but many of these sessions have been
   discontinued early secondary to hypotension. he likely became
   progressively fluid overloaded with insufficient HD.  CVVH began [**10-26**].
   -albuterol, ipratropium nebs.
   -IV morphine
   -continue digoxin
   -continue CVVH
   #UTI
   - Unable to get sample here prior to abx, but followed up [**Hospital1 723**] sample
   from [**10-20**] during which he had low grade no overt fevers and the
   hypotension, this grew ESBL e.coli sensitive to augmentin. Prior U/As
   without organisms.
   - Start Augmentin for 10d course to treat
   #)HYPOTENSION: Possibly related to sepsis and poor oncotic pressure
   - treat UTI as above
   -Hold metoprolol, -Hold amiodarone
   -weaned off levophed
   -f/u cultures
   #)Chest Pain: ekg without ischemic changes and unchanged from prior.
   Chest tightness likely from pulmonary edema.  patient does have pmh of
   CAD, and so will continue with morphine and SL Nitro.
   -IV morphine
   -SL Nitroglycrin
   #)H/O GI bleeding: Not currently bleeding, hematocrit is stable.
   holding anticoagulation.
   #) Thrombocytopenia
   - PLTs recovering. HIT PF4 ab negative x2 in [**Month (only) 705**]. ?illness, immune
   mediation, or splenic sequestration
   - Defer restarting heparin for now; consider heme consult. Pneumoboots
   for ppx.
   #)Afib: Holding metorpolol and amiodarone in setting of hypotension.
   will continue with digoxin.
   #) Prophylaxis: PPI, bowel regimen
   #) FEN: low salt diet diet as tolerated
   #) Access: Right EJ, left midline, right tunneled HD cartheter.
   #) Code Status: DNR/DNI
   #) Dispo: CVVH for another day, change to HD likely tomorrow as he is
   off levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2167-10-26**] 01:00 AM
   Dialysis Catheter - [**2167-10-26**] 01:00 AM
   Multi Lumen - [**2167-10-26**] 06:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-10-29 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.added augmentin for ESBL e.coli
   2.levophed weaned off
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-10-27**] 03:00 AM
   Infusions:
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-29**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.9
C (96.6
   HR: 94 (82 - 103) bpm
   BP: 102/60(70) {88/43(55) - 120/71(80)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98 kg (admission): 98.9 kg
    CVP: 13 (8 - 25)mmHg
   Mixed Venous O2% Sat: 39 - 53
   Total In:
                                                                  6,962 mL
                                                                  1,669 mL
   PO:
                                                                    910 mL
   TF:
   IVF:
                                                                  6,052 mL
                                                                  1,669 mL
   Blood products:
   Total out:
                                                                  8,798 mL
                                                                  2,411 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,836 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   145 K/uL
   7.6 g/dL
   154 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   24.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2167-10-27**]  11:46 AM
                            [**2167-10-27**]  11:48 AM
                            [**2167-10-27**]  05:47 PM
                            [**2167-10-27**]  05:49 PM
                            [**2167-10-27**]  11:51 PM
                            [**2167-10-28**]  05:36 AM
                            [**2167-10-28**]  11:42 AM
                            [**2167-10-28**]  05:36 PM
                            [**2167-10-28**]  11:45 PM
                            [**2167-10-29**]  05:47 AM
   WBC
   9.6
   8.2
   7.6
   Hct
   27.3
   26.8
   25.8
   24.9
   Plt
   132
   148
   145
   Cr
   2.9
   2.0
   2.0
   1.8
   1.6
   Glucose
   163
   173
   227
   110
   141
   157
   138
   154
   Other labs: PT / PTT / INR:16.2/35.7/1.4, CK / CKMB /
   Troponin-T:40/5/0.26, Differential-Neuts:90.2 %, Band:0.0 %, Lymph:5.7
   %, Mono:3.0 %, Eos:0.9 %, Albumin:3.2 g/dL, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Patient is an 80 y.o. man with pmh significant for systolic and
   diastolic CHF, ESRD, p/w dyspnea, hypoxia, and hypotension.
   #)ACUTE ON CHRONIC CONGESTIVE HEART FAILURE
   CHF exacerbation with pulmonary edema. CXR with bilateral infiltrates,
   BNP 38,000 on admission. Echo unchanged, ekg unchanged.  Cardiac
   enzymes negative. Entire body is edemetous. patient has been going to
   hemodialysis regularly but many of these sessions have been
   discontinued early secondary to hypotension. he likely became
   progressively fluid overloaded with insufficient HD.  CVVH began [**10-26**].
   -albuterol, ipratropium nebs.
   -IV morphine
   -continue digoxin
   -continue CVVH
   #UTI
   - Unable to get sample here prior to abx, but followed up [**Hospital1 723**] sample
   from [**10-20**] during which he had low grade no overt fevers and the
   hypotension, this grew ESBL e.coli sensitive to augmentin. Prior U/As
   without organisms.
   - Start Augmentin for 10d course to treat
   #)HYPOTENSION: Possibly related to sepsis and poor oncotic pressure
   - treat UTI as above
   -Hold metoprolol, -Hold amiodarone
   -weaned off levophed
   -f/u cultures
   #)Chest Pain: ekg without ischemic changes and unchanged from prior.
   Chest tightness likely from pulmonary edema.  patient does have pmh of
   CAD, and so will continue with morphine and SL Nitro.
   -IV morphine
   -SL Nitroglycrin
   #)H/O GI bleeding: Not currently bleeding, hematocrit is stable.
   holding anticoagulation.
   #) Thrombocytopenia
   - PLTs recovering. HIT PF4 ab negative x2 in [**Month (only) 705**]. ?illness, immune
   mediation, or splenic sequestration
   - Defer restarting heparin for now; consider heme consult. Pneumoboots
   for ppx.
   #)Afib: Holding metorpolol and amiodarone in setting of hypotension.
   will continue with digoxin.
   #) Prophylaxis: PPI, bowel regimen
   #) FEN: low salt diet diet as tolerated
   #) Access: Right EJ, left midline, right tunneled HD cartheter.
   #) Code Status: DNR/DNI
   #) Dispo: CVVH for another day, change to HD likely tomorrow as he is
   off levophed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2167-10-26**] 01:00 AM
   Dialysis Catheter - [**2167-10-26**] 01:00 AM
   Multi Lumen - [**2167-10-26**] 06:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2167-10-26**] 01:00 AM
   Dialysis Catheter - [**2167-10-26**] 01:00 AM
   Multi Lumen - [**2167-10-26**] 06:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: